US07205415B2
Lovastatin (50 gm) is mixed with tetrahydrofuran (100 ml) and methoxy ethylamine (140 ml) to obtain a clear solution, the solution is heated to 50° C. and stirred for 4 hours at the same temperature. Then the solvent is distilled off at reduced pressure not allowing the temperature to raise above 50° C., tetrahydrofuran (200 ml) is added to the residue thus obtained, stirred for 30 minutes and distilled off the solvent to give 58 gm of N-methoxyethyl-7-[1,2,6,7,8,8a(R)-hexahydro-2(S),6(R)-dimethyl-8(S)-[[2(S)-methylbutanoyl]oxy]-1(S)-naphthyl]-3(R),5(R)-dihydroxyheptanamide as residue (HPLC Purity 97.3%).

reactant | Lovastatin | 50 gm | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
reactant | methoxy ethylamine | 140 ml | COCCN | C3H9NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-methoxyethyl-7-[1,2,6,7,8,8a(R)-hexahydro-2(S),6(R)-dimethyl-8(S)-[[2(S)-methylbutanoyl]oxy]-1(S)-naphthyl]-3(R),5(R)-dihydroxyheptanamide | 58 gm | COCCNC(C[C@@H](C[C@@H](CC[C@H]1[C@H](C=CC2=C[C@@H](C[C@@H]([C@H]12)OC([C@H](CC)C)=O)C)C)O)O)=O | C27H45NO6
